US06713499B2
To a stirred solution of 4.20 g (19.1 mmol) 2-methoxy-5-{(1S,4S)-(2-oxa-5-aza-bicyclo[2.2.1]hept-5-yl)}-phenylamine in 200 ml acetone was added dropwise 2.88 ml (21.0 mmol) benzoyl isothiocyanate and stirring continued for 1 h at room temperature. The mixture was then concentrated in vacuo to afford 7.30 g (100%) 1-benzoyl-3-[2-methoxy-5-{(1S,4S)-(2-oxa-5-aza-bicyclo[2.2.1]hept-5-yl)}-phenyl]-thiourea as a yellow solid. ES-MS m/e (%): 406 (M+Na+, 13), 384 (M+H+, 100).

reactant | 2-methoxy-5-{(1S,4S)-(2-oxa-5-aza-bicyclo[2.2.1]hept-5-yl)}-phenylamine | 19.1 mmol, 4.20 g | COC1=C(C=C(C=C1)N1[C@@H]2CO[C@H](C1)C2)N | C12H16N2O2
reactant | benzoyl isothiocyanate | 21.0 mmol, 2.88 ml | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | 1-benzoyl-3-[2-methoxy-5-{(1S,4S)-(2-oxa-5-aza-bicyclo[2.2.1]hept-5-yl)}-phenyl]-thiourea | 7.30 g, 100% | C(C1=CC=CC=C1)(=O)NC(=S)NC1=C(C=CC(=C1)N1[C@@H]2CO[C@H](C1)C2)OC | C20H21N3O3S
